US03987160
Benzoyl chloride (3.26 ml.) and 4N aqueous sodium hydroxide solution (8 ml.) were added alternately, in portions over 25 minutes, to a vigorously shaken, ice-cooled solution of 5-amino-4-carbamoyl-1H-1,2,3-triazole (1.27 g; prepared by the method of J. R. E. Hoover and A. R. Day, J. Amer. Chem. Soc., 1956, 78,5832) in 4N aqueous sodium hydroxide solution (15 ml.). The reaction mixture was extracted with diethyl ether, the aqueous layer cooled and acidified with concentrated hydrochloric acid, and the white precipitate filtered off and washed well with water. The crude solid was stirred in diethyl ether and then purified by dissolving in dilute aqueous sodium hydroxide solution, and reprecipitation by the addition of concentrated hydrochloric acid. The solid was filtered off, washed with water, and dried to give 5-benzamido-4-carbamoyl-1H-1,2,3-triazole (0.085 g.), m.p. 299° C. (with decomposition).

reactant | Benzoyl chloride | 3.26 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-amino-4-carbamoyl-1H-1,2,3-triazole | NC1=C(N=NN1)C(N)=O | C3H5N5O
solvent | sodium hydroxide | 4N, 15 ml | [OH-].[Na+]
solvent | sodium hydroxide | 4N, 8 ml | [OH-].[Na+]
product | 5-benzamido-4-carbamoyl-1H-1,2,3-triazole | 0.085 g | C(C1=CC=CC=C1)(=O)NC1=C(N=NN1)C(N)=O | C10H9N5O2
